US05856576
Preparation of 1-(o-nitrophenyl)-4-bromo-1-butanone
A mixture of 1-(o-nitrophenyl)-4-hydroxy-1-butanone (1.33 g, 6.4 mmol) and CBr4 (2.32 g, 7.0 mmol) in toluene is treated with triphenylphospine (2.50 g, 9.5 mmol), heated at 60° C. with stirring under nitrogen for 24 hours, cooled to room temperature and poured onto water. The resultant aqueous mixture is extracted with ethyl acetate. The extracts are combined, washed with brine, dried over Na2SO4 and concentrated in vacuo to give a residue. The residue is purified by flash column chromatography (silica gel; gradient 1:4→1:2 ethyl acetate: hexanes as eluent) to give the title product as a brown oil, 0.90 g, 52% yield, identified by NMR and mass spectral analyses.

reactant | 1-(o-nitrophenyl)-4-hydroxy-1-butanone | 6.4 mmol, 1.33 g | [N+](=O)([O-])C1=C(C=CC=C1)C(CCCO)=O | C10H11NO4
reactant | CBr4 | 7.0 mmol, 2.32 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphospine | 9.5 mmol, 2.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(o-nitrophenyl)-4-bromo-1-butanone | 52% yield | [N+](=O)([O-])C1=C(C=CC=C1)C(CCCBr)=O | C10H10BrNO3
